US05677464
(2R)-2-[4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoic acid (1.0 g) and 2.5 ml of oxalyl chloride were added to 20 ml of dichloromethane, to which dimethylformamide (5 drops) was added dropwise at room temperature. After the reaction solution was stirred at room temperature for 2 hours, the solvent was distilled off under reduced pressure to give 1 g of (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride as a pale yellow oil. This product was used for the next step without purification.

reactant | (2R)-2-[4-[4-(2,2,3,3-Tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoic acid | 1.0 g | FC(COC1=CC=C(C=C1)N1C=NN(C1=O)[C@@H](C(=O)O)C)(C(F)F)F | C14H13F4N3O4
reactant | oxalyl chloride | 2.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2R)-2-[4-[4-(2,2,3,3-tetrafluoropropoxy)phenyl]-4,5-dihydro-5-oxo-1H-1,2,4-triazol-1-yl]propanoyl chloride | 1 g | FC(COC1=CC=C(C=C1)N1C=NN(C1=O)[C@@H](C(=O)Cl)C)(C(F)F)F | C14H12ClF4N3O3
